Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, diarrhea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ y/o female with history of ulcerative colitis, 
collagenous colitis who presented with worsening abdominal 
cramping, diarrhea and bloody stool. The patient had been doing 
well 6 days prior to admission her prednisone was discontinued. 
She was doing well for a few days and then two days prior to 
admission developed increasing crampy abdominal pain, watery 
diarrhea- up to 16x. She had two enemas in preparation for a 
flex sig and developed bright red blood per rectum. She reports 
her pain is crampy, and improves with defecation. She also 
develops nausea/sweating when she has to move her bowels which 
also improves following BM.  She has also noted a puritic rash 
mainly on her arms, legs, thighs which worsened after stopping 
prednisone. She was seen by Dermatology on ___ and unerwent 
biopsy which is pending. She undwerent flex sig on ___ 
which showed granularity, friability, ulceration and erythema 
consistent with severe colitis. Given these findings she was 
started on Prednisone 40mg daily which she has taken for the 
last two days with some improvement in her diarrhea, cramping 
pain and near resolution of her rash. 

ROS:
She has had no fevers or chills. No vomiting. No chest pains or 
shortness of breath. No joint pain. Remainder of 12 point ROS 
asked and otherwise negative
 
Past Medical History:
Ulcerativce colitis
Collagenous colitis
Celiac Sprue
Osteopenia
Hyperlipidemia
 
Social History:
___
Family History:
Sister- ___ colitis s/p colectomy
Sister- severe C. diff colitis
Mother- Alive ___, ___
Father- ___ ___, CAD
Daughters are in good health
 
Physical Exam:
Admission Exam:
Vitals:97.9 BP: 128/89 HR: 89 R: 16 O2: 100% RA
Well appearing female, in NAD
HEENT: MMM, no scleral icterus, no LAD
Lungs: Clear B/L on auscultation
___: RRR, S1, S2 present
ABD: Soft, non-tender, non-distended, no rebound or guarding. 
Normoactive bowel sounds
EXT: no edema, no joint erythema or swelling
DERM: Small patch on left posterior upper arm with erythema, 
blanching rash.

Discharge Exam:
VS: T: 97.8 BP: 106/68 HR: 76 R: 16 O2: 97% RA
General: No apparent distress, ambulating
HEENT: anicteric, + flushing of cheeks
___: RRR S1, S2 present
ABD: soft, non-tender, nondistended, +BS, no r/r/g
Psych: pleasant

 
Pertinent Results:
Admission Labs:
___ 06:50PM BLOOD WBC-6.2 RBC-3.98* Hgb-12.7 Hct-35.8* 
MCV-90 MCH-31.8 MCHC-35.4* RDW-12.2 Plt ___
___ 06:50PM BLOOD ___ PTT-36.7* ___
___ 06:50PM BLOOD Glucose-115* UreaN-6 Creat-0.7 Na-140 
K-3.8 Cl-105 HCO3-25 AnGap-14
___ 06:50PM BLOOD Calcium-8.7 Phos-3.0 Mg-2.0
___ 06:50PM BLOOD CRP-33.9*

Stool studies:
___ 2:00 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      . 
      ___ CRYSTALS PRESENT. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

Labs on discharge:

___ 05:58AM BLOOD WBC-8.3 RBC-4.40 Hgb-13.6 Hct-40.1 MCV-91 
MCH-30.9 MCHC-34.0 RDW-13.5 Plt ___
___ 05:58AM BLOOD Glucose-131* UreaN-13 Creat-0.7 Na-140 
K-4.7 Cl-103 HCO3-28 AnGap-14
___ 05:58AM BLOOD CRP-6.1*
 
Brief Hospital Course:
___ with history of ulcerative colitis, collagenous colitis who 
presented with abdominal pain, diarrhea, BRBPR and evidence of 
severe colitis on flexible sigmoidoscopy.

#Ulcerative colitis flare:
She was on PO steroids as an outpatient without improvement in 
her symptoms. She was referred in by GI for IV steroids and 
consideration of remicade initiation. GI was consulted as an 
inpatient and IV Solumedrol 20mg TID was started with some 
improvement in symptoms. Her Asacol HD and mesalamine enema were 
discontinued Stools studies were unremarkable. CRP was checked 
after 3 days of IV steroids and was 6.1. The patient's symptoms 
improved significantly while hospitalized. The patient was 
discharged home on oral prednisone with instructions to call to 
arrange Remicade infusion in the next ___ days. She will also 
follow up with her gastroenterologist. 

#Osteopenia:
Calcium and vitamin D were restarted at discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine 2400 mg PO BID 
2. PredniSONE 40 mg PO DAILY 
3. Citracal + D (calcium phosphate-vitamin D3) 500 mg oral daily 

4. Omeprazole 20 mg PO DAILY 
5. saccharomyces boulardii 250 mg oral daily 
6. Lorazepam 0.5 mg PO Q8H:PRN anxiety/insomnia 

 
Discharge Medications:
1. Omeprazole 20 mg PO DAILY 
2. Ondansetron 4 mg PO Q8H:PRN nausea 
3. Citracal + D (calcium phosphate-vitamin D3) 500 mg oral daily 

4. Lorazepam 0.5 mg PO Q8H:PRN anxiety/insomnia 
5. PredniSONE 40 mg PO DAILY 
6. saccharomyces boulardii 250 mg oral daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ulcerative colitis flare
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for an ulcerative colitis flare. You were 
treated with IV steroids and your GI doctors were ___. 
With IV steroids you improved significantly. Your CRP on 
discharge is 6.1. You should resume your oral Prednisone 40 mg 
daily tomorrow morning ___. Please call the Pheresis unit 
to schedule your Remicade infusion, which has been ordered. You 
can discontinue your Asacol.
 
Followup Instructions:
___